### PR TITLE
feat: `BitVec` int lemmas

### PR DESCRIPTION
**Pull request by joehendrix**
This introduces lemma support for BitVec.ofInt/BitVec.toInt as well as lemmas upstreamed from Std and Mathlib for reasoning about emod and bmod.

### CODE REVIEW

File: src/Init/Data/Int/DivMod.lean [hunk 1]
```diff
@@ -158,4 +158,38 @@ instance : Div Int where
...
+Balanced mod (and balanced div) are a division and modulus pair such
+that `b * (Int.bdiv a b) + Int.bmod a b = a` and `b/2 ≤ Int.bmod a b <
+b/2` for all `a : Int` and `b > 0`.
+
+This is used in Omega as well as signed bitvectors.
+-/
+
+/--
+Balanced mod, taking values in the range [- m/2, (m - 1)/2].
+-/
```
Comment (semorrison) [inline src/Init/Data/Int/DivMod.lean:173]: Needs rewriting!

File: src/Init/Data/Int/Basic.lean [hunk 2]
```diff
@@ -325,6 +325,19 @@ protected def pow (m : Int) : Nat → Int
 instance : HPow Int Nat Int where
   hPow := Int.pow
 
+protected
+theorem pow_succ (b : Int) (n : Nat) : b ^ (n+1) = b^n * b := by rfl
```
Comment (semorrison) [inline src/Init/Data/Int/Basic.lean:329]:
```suggestion
protected theorem pow_succ (b : Int) (n : Nat) : b ^ (n+1) = b^n * b := by rfl
```

File: src/Init/Data/Int/Basic.lean [hunk 3]
```diff
@@ -325,6 +325,19 @@ protected def pow (m : Int) : Nat → Int
...
+
+theorem powNatCast (b n : Nat) : (@Nat.cast Int _ b) ^ n = (b^n : Nat) := by
+  match n with
+  | 0 => rfl
+  | n + 1 =>
+    simp only [Int.pow_succ, powNatCast b n, Nat.pow_succ]
+    rfl
+
+theorem powOfNat (b n : Nat) : (@OfNat.ofNat Int b _) ^ n = (b^n : Nat) :=
+  powNatCast b n
```
Comment (semorrison) [inline src/Init/Data/Int/Basic.lean:339]: I think this should be called `ofNat_pow`?

File: src/Init/Data/Int/Basic.lean [hunk 4]
```diff
@@ -325,6 +325,19 @@ protected def pow (m : Int) : Nat → Int
 instance : HPow Int Nat Int where
   hPow := Int.pow
 
+protected
+theorem pow_succ (b : Int) (n : Nat) : b ^ (n+1) = b^n * b := by rfl
+
+theorem powNatCast (b n : Nat) : (@Nat.cast Int _ b) ^ n = (b^n : Nat) := by
```
Comment (semorrison) [inline src/Init/Data/Int/Basic.lean:331]: and this one `nat_cast_pow`?

File: src/Init/Data/Int/Basic.lean (hunk 3 above)
Comment (semorrison) [reply src/Init/Data/Int/Basic.lean:339]: Hmm, actually not sure, I think a lot of our `ofNat_X` lemmas in the `Int` namespace need renaming, and probably should be `nat_cast_X` or `cast_X`.

File: src/Init/Data/Int/Basic.lean (hunk 2 above)
Comment (semorrison) [reply src/Init/Data/Int/Basic.lean:329]: pow_succ has also been introduced in a later file in the meantime! (I'm inclined to believe it belongs later than here, this file should only have the minimal theorems needed for definitions.)

**Comment by semorrison** [comment]
I pushed some very minor changes to proofs. Looks good to me otherwise.

PR title should be `feat: ...`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -148,6 +148,15 @@ theorem msb_eq_getLsb_last (x : BitVec w) :
...
 
+theorem toNat_ge_of_msb_true {x : BitVec n} (p : BitVec.msb x = true) : x.toNat ≥ 2^(n-1) := by
+  match n with
+  | 0 =>
+    simp [BitVec.msb, BitVec.getMsb] at p
+  | n + 1 =>
+    simp [BitVec.msb_eq_decide] at p
+    omega
+
+
```
Comment (joehendrix) [inline src/Init/Data/BitVec/Lemmas.lean:159]:
```suggestion
```
